US08859541B2
C3a) 5-bromo-4-chloro-6-(2-phenylethynyl)pyridin-2-amine
A mixture of 4-chloro-6-(2-phenylethynyl)pyridin-2-amine B3a (1.0 g, 4.37 mmol), NBS (778 mg, 4.37 mmol) and ACN (20 ml) is stirred for 3 h at RT in the dark. The mixture is concentrated in vacuo and the product purified NP chromatography. Yield: 1.0 g (74%). HPLC-MS: M+H=307/309.

reactant | 4-chloro-6-(2-phenylethynyl)pyridin-2-amine | ClC1=CC(=NC(=C1)C#CC1=CC=CC=C1)N | C13H9ClN2
reactant | NBS | 4.37 mmol, 778 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | ACN | 20 ml | C(C)#N | C2H3N
product | 5-bromo-4-chloro-6-(2-phenylethynyl)pyridin-2-amine | BrC=1C(=CC(=NC1C#CC1=CC=CC=C1)N)Cl | C13H8BrClN2
